US08541457B2
To a stirred solution of 2-(tert-butoxycarbonylamino)-4-methylthiazole-5-carboxylic acid (2.97 g, 11.50 mmol) and diisopropylamine (8.5 mL, 48.70 mmol) in dichloromethane (40 mL) was added N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.25 g, 11.50 mmol) and 1-hydroxybenzotriazole (2.02 g, 14.80 mmol). After 30 min benzylamine (1.7 mL, 15.60 mmol) was added. The resultant mixture was stirred at ambient temperature over 8 h, diluted with ethyl acetate, washed with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by flash column chromatography eluting with ethyl acetate/hexanes (5/95 to 100/0) to afford 2-(tert-butoxycarbonylamino)-4-methylthiazole-5-carboxylic acid benzylamide (2.00 g, 50% yield).

reactant | 2-(tert-butoxycarbonylamino)-4-methylthiazole-5-carboxylic acid | 11.50 mmol, 2.97 g | C(C)(C)(C)OC(=O)NC=1SC(=C(N1)C)C(=O)O | C10H14N2O4S
reactant | diisopropylamine | 48.70 mmol, 8.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 11.50 mmol, 2.25 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 14.80 mmol, 2.02 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | benzylamine | 15.60 mmol, 1.7 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(tert-butoxycarbonylamino)-4-methylthiazole-5-carboxylic acid benzylamide | 2.00 g, 50% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(=O)OC(C)(C)C)C | C17H21N3O3S
